US04054591
To a solution of 4.92 g. of 2-(4-methyl-1-piperazinyl)-6-nitrobenzonitrile in 11 ml. of concentrated hydrochloric acid is added 3.4 g. of iron powder. The mixture is stirred for 30 minutes, poured into ice water and the pH is adjusted to 12. Methylene chloride is added, the whole mixture is filtered through celite, the methylene chloride is separated, dried and evaporated to give solid, crude product, 2-amino-6-(4-methyl-1-piperazinyl)benzonitrile.

reactant | 2-(4-methyl-1-piperazinyl)-6-nitrobenzonitrile | CN1CCN(CC1)C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C12H14N4O2
reactant | hydrochloric acid | Cl | ClH
catalyst | iron | [Fe] | Fe
solvent | Methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-amino-6-(4-methyl-1-piperazinyl)benzonitrile | NC1=C(C#N)C(=CC=C1)N1CCN(CC1)C | C12H16N4
